US07435837B2
Treatment of (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol (3.5 g, 13.35 mmol) with p-toluenesulfonyl chloride (3.05 g, 16.01 mol) generally according to the procedure described for Intermediate 10 gave 3.5 g (64%) of (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate. Treatment of (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (3.0 g, 7.20 mmol) with sodium azide (1.87 g, 28.8 mmol) generally according to the procedure described for Intermediate 98 gave (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl azide. Treatment of the azide with palladium on carbon (0.20 g, 10 wt. %) generally according to the procedure described for Example 1 provided 1.69 g (90%) of (±)-1-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 219-222° C.; Anal. calcd. for C15H13F2NOHCl: C, 60.51; H, 4.74; N, 4.7. Found: C, 60.34; H, 4.87; N, 4.58.

reactant | (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 13.35 mmol, 3.5 g | FC1=C(C(=CC=C1)F)C1=CC=CC=2CC(OC21)CO | C15H12F2O2
reactant | p-toluenesulfonyl chloride | 16.01 mol, 3.05 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (±)-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.5 g, 64% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2F)F | C22H18F2O4S
